US07964607B2
(b) 5-amino-1-cyclobutyl-1H-pyrazole-4-carboxamide
Following the procedure for the preparation of 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carboxamide but substituting 5-amino-1-cyclobutyl-1H-pyrazole-4-carbonitrile provided the title compound. 400 MHz 1H NMR (CD3OD) δ 7.71 (s, 1H), 4.71-4.55 (m, 1H), 2.61-2.50 (m,2H), 2.46-2.31 (m, 2H), 1.89-1.83 (m, 2H).

reactant | 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carboxamide | NC1=C(C=NN1C1=C(C=CC=C1)OC)C(=O)N | C11H12N4O2
reactant | 5-amino-1-cyclobutyl-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1CCC1)C#N | C8H10N4
product | 5-amino-1-cyclobutyl-1H-pyrazole-4-carboxamide | NC1=C(C=NN1C1CCC1)C(=O)N | C8H12N4O
